US04826866
3-(Cyclohexylamino)-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride[1:1]
A mixture of 34.7 g (0.2 mole) of 4-cyclohexyl-3-thiosemicarbazide and 32.9 g (0.2 mole) of ethyl 2-chloroacetoacetate in 350 mL of absolute ethanol was stirred under nitrogen atmosphere at ambient temperature for 2 hr, treated with 100 mL of 2N ethanolic hydrogen chloride and heated at reflux for 2 hr. The hot reaction mixture was filtered to remove an amorphous solid. The product persistently crystallized in the filter. The product was recrystallized from acetone and recovered by decating off hot acetone solvent and washing the residue with cold acetone to give 27 g of large, off-white crystals, mp 178°-182° C.

reactant | 4-cyclohexyl-3-thiosemicarbazide | 0.2 mole, 34.7 g | C1(CCCCC1)NC(NN)=S | C7H15N3S
reactant | ethyl 2-chloroacetoacetate | 0.2 mole, 32.9 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrogen chloride | 2N, 100 mL | Cl | ClH
solvent | ethanol | 350 mL | C(C)O | C2H6O
product | 3-(Cyclohexylamino)-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride | Cl.C1(CCCCC1)NC1=NNC(=C1C(=O)OCC)C | InChI=1S/C13H21N3O2.ClH/c1-3-18-13(17)11-9(2)15-16-12(11)14-10-7-5-4-6-8-10;/h10H,3-8H2,1-2H3,(H2,14,15,16);1H
